US04007190
3,6-Bis-(1-benzyl-5-chloro-2-piperidinyl)-2,5-Piperazinedione
One mole of 3,6-bis(5-chloro-2piperidinyl)-2,5-piperazinedione is stirred in 150 parts of acetone and 2.2 moles of benzyl bromide is added. The mixture is stirred 24 hours and refluxed 24 hours. The solvent is removed in vacuo and treated as in the preparation of 3,6-bis-(1-methyl-5-chloro-2-piperidinyl)-2,5-piperazinedone.

reactant | 3,6-bis(5-chloro-2piperidinyl)-2,5-piperazinedione | One mole | ClC1CCC(NC1)C1C(NC(C(N1)=O)C1NCC(CC1)Cl)=O | C14H22Cl2N4O2
reactant | benzyl bromide | 2.2 moles | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | 3,6-Bis-(1-benzyl-5-chloro-2-piperidinyl)-2,5-Piperazinedione | C(C1=CC=CC=C1)N1C(CCC(C1)Cl)C1C(NC(C(N1)=O)C1N(CC(CC1)Cl)CC1=CC=CC=C1)=O | C28H34Cl2N4O2
